USRE037729E1
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (2.1 g, 9.5 mmol ). K2CO3 (2.0 g)-1-[3-bromo-4-(3-bromopropoxy)phenyl]ethanone (3.1 g, 9.2 mmol) in acetonitrile (100 ml) was heated at reflux for 3 hours. At the end of reaction, the solvent was concentrated and the mixture was extracted into dichloromethane (200 ml). The insolubles were filtered off. The dichloromethane was concentrated again. The crude residue was purified by flash chromatography over a silica gel column. (SiO2, 49 g; eluted with dichloromethane, 500 ml; 1% methanol:dichloromethane, 600 ml; 3% methanol; 97% dichloromethane, 600 ml). The material thus obtained (3.26 g, 72%) was recrystallized from ethanol (40 ml) to give 1-[4-[3-[4-(6-fluoro-1,2-benzisoxazol -3- yl)-1-piperidinyl]-propoxy]-3-bromophenyl]ethanone as light yellow crystals (3.0 g), m.p.=126°-128° C. ANALYSIS: Calculated for C23H24BrFN2O3: 58.12%C 5.09%H 5.89%N Found: 57.64%C 5.35%H 5.55%N

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 9.5 mmol, 2.1 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 2.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[3-bromo-4-(3-bromopropoxy)phenyl]ethanone | 9.2 mmol, 3.1 g | BrC=1C=C(C=CC1OCCCBr)C(C)=O | C11H12Br2O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-[4-[3-[4-(6-fluoro-1,2-benzisoxazol -3- yl)-1-piperidinyl]-propoxy]-3-bromophenyl]ethanone | 3.0 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C(C=C(C=C2)C(C)=O)Br)C=C1 | C23H24BrFN2O3
